### PR TITLE
[Merged by Bors] - chore: add `nnnorm` and `enorm` versions of `NontriviallyNormedField` lemmas

### PR DESCRIPTION
**Pull request by eric-wieser**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by urkud** [comment]
IMHO, these lemmas should be generalized to normed groups with `Filter.NeBot` assumptions (for `cobounded` or `\nhds[\ne] 0`).

**Comment by eric-wieser** [comment]
I agree, but I think that applies to the existing lemmas in this section to, and was intending to do the generalization in a follow-up PR.

File: Mathlib/Analysis/Normed/Field/Basic.lean [hunk 1]
```diff
@@ -199,18 +199,38 @@ variable (α) [NontriviallyNormedField α]
...
+theorem exists_one_lt_enorm : ∃ x : α, 1 < ‖x‖ₑ :=
+  exists_one_lt_nnnorm α |>.imp fun _ => ENNReal.coe_lt_coe.mpr
+
 theorem exists_lt_norm (r : ℝ) : ∃ x : α, r < ‖x‖ :=
   let ⟨w, hw⟩ := exists_one_lt_norm α
   let ⟨n, hn⟩ := pow_unbounded_of_one_lt r hw
   ⟨w ^ n, by rwa [norm_pow]⟩
 
+theorem exists_lt_nnnorm (r : ℝ≥0) : ∃ x : α, r < ‖x‖₊ := exists_lt_norm α r
+
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Field/Basic.lean:213]: Can you also add an enorm version? Thanks!

File: Mathlib/Analysis/Normed/Field/Basic.lean [hunk 2]
```diff
@@ -199,18 +199,38 @@ variable (α) [NontriviallyNormedField α]
...
   let ⟨w, hw⟩ := exists_lt_norm α r⁻¹
   ⟨w⁻¹, by rwa [← Set.mem_Ioo, norm_inv, ← Set.mem_inv, Set.inv_Ioo_0_left hr]⟩
 
+theorem exists_nnnorm_lt {r : ℝ≥0} (hr : 0 < r) : ∃ x : α, 0 < ‖x‖₊ ∧ ‖x‖₊ < r :=
+  exists_norm_lt α hr
+
+theorem exists_enorm_lt {r : ℝ≥0∞} (hr : 0 < r) : ∃ x : α, 0 < ‖x‖ₑ ∧ ‖x‖ₑ < r :=
+  match r with
+  | ∞ => exists_one_lt_enorm α |>.imp fun _ hx => ⟨zero_le_one.trans_lt hx, ENNReal.coe_lt_top⟩
+  | (r : ℝ≥0) => exists_nnnorm_lt α (ENNReal.coe_pos.mp hr) |>.imp fun _ =>
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Field/Basic.lean:224]: does writing `| coe r` work? If so, that's slightly nicer.

**Review by grunweg — COMMENTED** [review]
Would you like to add a TODO capturing urkud's comment? Otherwise, LGTM - the changes themselves are straightforward.
maintainer delegate

**Comment by ocfnash** [comment]
Thanks all!

bors d+

File: Mathlib/Analysis/Normed/Field/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Field/Basic.lean:213]: What would the statement be?

Comment (grunweg) [reply Mathlib/Analysis/Normed/Field/Basic.lean:213]: This one?
```suggestion
theorem exists_lt_enorm (r : ℝ≥0) : ∃ x : α, r < ‖x‖ₑ := by
  obtain ⟨x, hx⟩ := exists_lt_nnnorm α r
  exact ⟨x, by simp [hx]⟩

File: Mathlib/Analysis/Normed/Field/Basic.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Field/Basic.lean:224]: Not unless I switch to `by induction` instead of `match

File: Mathlib/Analysis/Normed/Field/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Field/Basic.lean:213]: I'd argue that this one is less useful than the others, since the hypothesis is not of type `ENNReal`, and the RHS arguably should be norm-casted to the `nnnorm` version.

Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Field/Basic.lean:213]: @grunweg, do you agree with the above?

Comment (urkud) [reply Mathlib/Analysis/Normed/Field/Basic.lean:213]: You can do `{r : ENNReal} (hr : r \ne \top)` instead.

Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Field/Basic.lean:213]: Done

Comment (grunweg) [reply Mathlib/Analysis/Normed/Field/Basic.lean:213]: The new version looks good to me, thanks!

**Comment by eric-wieser** [comment]
bors merge
